US04064258
0.0425 Mole of lithium aluminum hydride is dissolved in 100 ml. of anhydrous tetrahydrofuran at 0° C, under nitrogen, and then 0.0425 mole of bicyclo[2.2.1]hept-7-yl acetamide in 100 ml. of anhydrous tetrahydrofuran is added dropwise. The mixture is stirred for about 12 hours at room temperature and then about 10 ml. of water is carefully added to decompose excess lithium aluminum hydride (and complex). The mixture is then filtered and the filtrate then dried with potassium hydroxide pellets; filtered and the filtrate distilled, to remove solvent, affording 2-(bicyclo[2.2.1]hept-7-yl)ethylamine.

reactant | lithium aluminum hydride | 0.0425 Mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | bicyclo[2.2.1]hept-7-yl acetamide | 0.0425 mole | C12CCC(CC1)C2CC(=O)N | C9H15NO
solvent | water | O | H2O
product | 2-(bicyclo[2.2.1]hept-7-yl)ethylamine | C12CCC(CC1)C2CCN | C9H17N
